US05219871
Preparation of 2,2-diphenyl-5-[N-(4-hydroxyphenethyl)-N-methylamino]pentanamide
A mixture containing 2,2-diphenyl-5-methylaminopentanamide (0.36 g-see Preparation 3), 4-hydroxyphenethyl bromide (0.26 g), sodium bicarbonate (0.5 g) and acetonitrile (20 ml) was heated under reflux for 16 hours. The mixture was partitioned between dichloromethane (40 ml) and aqueous sodium bicarbonate (30 ml), the layers separated and the aqueous layer extracted with dichloromethane (2×30 ml). The combined dichloromethane extracts were concentrated in vacuo to give an oil which was purified by column chromatography on silica eluting with dichloromethane containing methanol (0% up to 10%). The product-containing fractions were combined and concentrated in vacuo to give a foam which was further purified by column chromatography on alumina eluting with dichloromethane containing methanol (0% up to 10%). The product-containing fractions were combined and concentrated in vacuo to give the title compound as a foam, yield 0.09 g.

reactant | 2,2-diphenyl-5-methylaminopentanamide | 0.36 g | C1(=CC=CC=C1)C(C(=O)N)(CCCNC)C1=CC=CC=C1 | C18H22N2O
reactant | 4-hydroxyphenethyl bromide | 0.26 g | OC1=CC=C(CCBr)C=C1 | C8H9BrO
reactant | sodium bicarbonate | 0.5 g | C([O-])(O)=O.[Na+]
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 2,2-diphenyl-5-[N-(4-hydroxyphenethyl)-N-methylamino]pentanamide | C1(=CC=CC=C1)C(C(=O)N)(CCCN(C)CCC1=CC=C(C=C1)O)C1=CC=CC=C1 | C26H30N2O2
